US07405228B2
Preparation of (S)-{3-[4-(4-oxo-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The mixture of (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.0 mmol), freshly fused zinc chloride (3.1 mmol), dimethyl sulphide (5.1 mmol), acetyl chloride (3.1 mmol) in tetrahydrofuaran (50 ml) was stirred at 40° C. for 4 days. The reaction mixture was extracted with ethyl acetate water mixture and the organic layer was dried over sodium sulfate. The removal of the solvent afforded a residue, which was chromatographed over silica gel to give title compound in 61% yield.

reactant | (S)-{3-[4-(4,4-dimethoxy-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.0 mmol | COC1(C(CN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CCC(=O)N)=O)F)OC | C19H26FN3O5
reactant | dimethyl sulphide | 5.1 mmol | CSC | C2H6S
reactant | acetyl chloride | 3.1 mmol | C(C)(=O)Cl | C2H3ClO
product | (S)-{3-[4-(4-oxo-3-fluoropiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 61% yield | O=C1C(CN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CCC(=O)N)=O)F | C17H20FN3O4
